US07176310B1
17. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 3-dimethylamino-phenyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 3-dimethylaminophenol (21 mg, 0.15 mmol) as the coupling partner. Concentration (no chromatography) yielded 53 mg (76%) of the titled compound as a pink-purple solid. ESI-MS m/z 411 (MH+), 409 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 3-dimethylaminophenol | 0.15 mmol, 21 mg | CN(C=1C=C(C=CC1)O)C | C8H11NO
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 3-dimethylamino-phenyl ester | 53 mg, 76% | CN(C=1C=C(C=CC1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O)C | C21H19FN4O4
